US05686486
3-Methyl-1-phenylbutan-1-ol
To a time-dried flask under an argon atmosphere is added 0.50 mL of commercially available isovaleraldehyde and charged with 15 mL of diethyl ether. The solution is cooled to 0° C. and is treated with 2.0 mL (3.0 M in diethyl ether) of phenylmagnesium bromide. The reaction mixture is left to warm to room temperature overnight and then partioned between diethyl ether and saturated ammonium chloride. The aqueous phases are extracted with diethyl ether and the combined organic layers are dried (magnesium sulfate) and finally concentrated under reduced pressure. The residue is flash column chromatographed using 20% diethyl ether in hexanes to yield 800 mg of the title product as a clear, colorless oil.

reactant | isovaleraldehyde | C(CC(C)C)=O | C5H10O
reactant | phenylmagnesium bromide | 3.0 M, 2.0 mL | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | 3-Methyl-1-phenylbutan-1-ol | 800 mg | CC(CC(O)C1=CC=CC=C1)C | C11H16O
